US08497368B2
6-(1-Ethoxy-vinyl)-3-(1-methyl-1H-indazol-5-ylmethyl)-imidazo[1,2-b]pyridazine (70.3)
A suspension of 6-chloro-3-((1-methyl-1H-indazol-5-yl)methyl)imidazo[1,2-b]pyridazine (180.0 mg, 36% pure, 0.22 mmol), tributyl(1-ethoxyvinyl)stannane (94 mg, 0.26 mmol) and Pd(PPh3)4 (25.1 mg, 0.02 mmol) in 10 mL DMF was flashed with nitrogen, then heated at 110° C. and stirred overnight. Solvent was removed under reduced pressure, the residue was diluted with DCM, washed sequentially with KF solution and water. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by flash chromatography (DCM:MeOH=20:1) to give the title compound which contains some triphenylphosphine oxide impurity and used in the next step without further purification (49 mg, 47%, 70% pure). LCMS (method A): [MH]+=334, tR=5.71 min.

reactant | 6-chloro-3-((1-methyl-1H-indazol-5-yl)methyl)imidazo[1,2-b]pyridazine | 0.22 mmol, 180.0 mg | ClC=1C=CC=2N(N1)C(=CN2)CC=2C=C1C=NN(C1=CC2)C | C15H12ClN5
reactant | tributyl(1-ethoxyvinyl)stannane | 0.26 mmol, 94 mg | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.02 mmol, 25.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(1-Ethoxy-vinyl)-3-(1-methyl-1H-indazol-5-ylmethyl)-imidazo[1,2-b]pyridazine | C(C)OC(=C)C=1C=CC=2N(N1)C(=CN2)CC=2C=C1C=NN(C1=CC2)C | C19H19N5O
